US06326386B1
(2-{3-Chloro-5-[isopropyl-(3-trifluoromethanesulfonylamino-propyl)-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester trifluoroacetate
To a solution of (2-{3-[(3-amino-propyl)-isopropyl-carbamoyl]-5-chloro-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester (0.044 g) and triethylamine (0.024 ml) in dichloromethane (1 ml) at −70° C. was added trifluoromethanesulphonic anhydride (0.016 ml), and the mixture was stirred overnight at room temperature. The mixture was diluted with dichloromethane(4 ml) and washed with saturated sodium bicarbonate(2 ml), dried (sodium sulphate) and evaporated under reduced pressure. The residue was subjected to preparative hplc to give the title compound (0.022 g). Hplc system 1 (λ=254 nm) Rt 11.4 min.

reactant | (2-{3-[(3-amino-propyl)-isopropyl-carbamoyl]-5-chloro-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester | 0.044 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)Cl)C(N(C(C)C)CCCN)=O)=O | C25H35ClN4O4
reactant | triethylamine | 0.024 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulphonic anhydride | 0.016 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (2-{3-Chloro-5-[isopropyl-(3-trifluoromethanesulfonylamino-propyl)-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester trifluoroacetate | 0.022 g | FC(C(=O)O)(F)F.C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CCCNS(=O)(=O)C(F)(F)F)C(C)C)=O)Cl)=O | InChI=1S/C26H34ClF3N4O6S.C2HF3O2/c1-18(2)33(12-6-9-32-41(37,38)26(28,29)30)23(35)19-15-20(27)17-22(16-19)39-14-13-34(21-7-10-31-11-8-21)24(36)40-25(3,4)5;3-2(4,5)1(6)7/h7-8,10-11,15-18,32H,6,9,12-14H2,1-5H3;(H,6,7)
